US04556711
5-(4-Aminophenyl)-6-methyl-2(1H)-pyrazinone hydrobromide
5-(4-Benzyloxycarbonylaminophenyl)-6-methyl-2(1H)-pyrazinone (0.5 g) was treated with hydrogen bromide in acetic acid in a manner similar to that described in Example 20 to give the title compound as its hydrobromide salt (340 mg) which after digestion with hot ethanol had m.p.>300° C.; δ(D2O) inter alia 2.39 (3H, d, CH3), 8.03 (1H, q, pyrazinone ring 3-H); ν(KBr) 1705, 1750 cm-1.

reactant | 5-(4-Benzyloxycarbonylaminophenyl)-6-methyl-2(1H)-pyrazinone | 0.5 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)C=1N=CC(NC1C)=O | C19H17N3O3
reactant | hydrogen bromide | Br | BrH
reactant | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(4-Aminophenyl)-6-methyl-2(1H)-pyrazinone hydrobromide | Br.NC1=CC=C(C=C1)C=1N=CC(NC1C)=O | InChI=1S/C11H11N3O.BrH/c1-7-11(13-6-10(15)14-7)8-2-4-9(12)5-3-8;/h2-6H,12H2,1H3,(H,14,15);1H
